US07157490B2
Step A: 5-Iodo-2-hydrazinopyridine
A mixture of 2-chloro-5-iodopyridine (1.918 g, 8.01 mmol), anhydrous hydrazine (1.26 mL, 40.05 mmol) and pyridine (30 mL) was warmed at reflux for 18 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was partitioned between dichloromethane and 1N aqueous sodium hydroxide solution. The organic layer was separated, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was triturated with hexanes, and the resultant precipitate was collected and dried in vacuo to afford the title compound as off-white crystals. LC/MS 235.8 (M+1).

reactant | 2-chloro-5-iodopyridine | 8.01 mmol, 1.918 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | hydrazine | 40.05 mmol, 1.26 mL | NN | H4N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 5-Iodo-2-hydrazinopyridine | IC=1C=CC(=NC1)NN | C5H6IN3
